US05008267
50 g of 2-amino-5-nitroanisole, 50 g of sodium hydroxide were dissolved in 450 ml of water. The resultant mixture was heated under reflux for 3 hours and then ice-cooled. Precipicated crystals were collected by filtration, followed by dissolution in water. The thus-prepared solution was neutralized with 6 N hydrochloric acid and crystals thus precipitated were collected by filtration. The crystals were dissolved in chloroform. The resultant solution was washed with water and dried over anhydrous sodium sulfate. By concentrating the chloroform layer under reduced pressure, 4.5 g of 2-methoxy-4-nitrophenol were obtained as crystals.

reactant | 2-amino-5-nitroanisole | 50 g | NC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H8N2O3
reactant | sodium hydroxide | 50 g | [OH-].[Na+]
solvent | water | 450 ml | O | H2O
product | 2-methoxy-4-nitrophenol | 4.5 g | COC1=C(C=CC(=C1)[N+](=O)[O-])O | C7H7NO4
